US08492582B2
N-Bromosuccinimide (0.25 g) and azobisisobutyronitrile (0.023 g) were sequentially added to a benzene (6.3 mL) solution of the obtained tert-butyl 2-(2-(methoxymethoxy)-5-methylbenzamido)-4-phenylbenzoate (0.63 g), followed by heating to reflux for 30 minutes. The reaction mixture was cooled to room temperature, and then a saturated aqueous solution of sodium bicarbonate and ethyl acetate were added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 100-90% hexane/ethyl acetate] to obtain 0.51 g of tert-butyl 2-(5-(bromomethyl)-2-(methoxymethoxy)benzamido)-4-phenylbenzoate as a white solid.

reactant | N-Bromosuccinimide | 0.25 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 0.023 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | tert-butyl 2-(2-(methoxymethoxy)-5-methylbenzamido)-4-phenylbenzoate | 0.63 g | COCOC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C | C27H29NO5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | benzene | 6.3 mL | C1=CC=CC=C1 | C6H6
product | tert-butyl 2-(5-(bromomethyl)-2-(methoxymethoxy)benzamido)-4-phenylbenzoate | 0.51 g | BrCC=1C=CC(=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C1)OCOC | C27H28BrNO5
